US07160887B1
5% carbon-palladium (1.I g) was added to an ethyl acetate (50 ml) solution of tert-butyl(1R)-(-)-1-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate (3.5 g, 8.9 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure for 1 hour. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was stirred with ethyl 4-bromobutyrate (7 g, 36 mmols), potassium carbonate (3.7 g, 27 mmols) and N,N-dimethylformamide (50 ml) at 80° C. for 72 hours. The reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an oil of ethyl 4-[N-[2-[3-[(1R)-1-tert-butoxycarbonylaminoethyl]phenoxy]-4-chlorophenyl]]aminobutyrate (2.4 g, 56%).

reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | tert-butyl(1R)-(-)-1-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate | 8.9 mmols, 3.5 g | ClC=1C=CC(=C(OC=2C=C(C=CC2)[C@@H](C)NC(OC(C)(C)C)=O)C1)[N+](=O)[O-] | C19H21ClN2O5
reactant | ethyl 4-bromobutyrate | 36 mmols, 7 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 27 mmols, 3.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | carbon palladium | [C].[Pd]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[N-[2-[3-[(1R)-1-tert-butoxycarbonylaminoethyl]phenoxy]-4-chlorophenyl]]aminobutyrate | 2.4 g, 56% | C(C)(C)(C)OC(=O)N[C@H](C)C=1C=C(OC2=C(C=CC(=C2)Cl)NCCCC(=O)OCC)C=CC1 | C25H33ClN2O5
